US08207343B2
Preparation of (S)-1-(3-((E)-2-(7-chloroquinolin-2-yl)vinyl)phenyl)-3-(2-(1-hydroxy-1-methylethyl)phenyl]propyl acetate
To a stirred solution of 2-[2-[3(S)-[3-[2-(7-Chloro-2-quinolinyl)ethenyl]phenyl]-3-hydroxy propyl]phenyl]-2-propanol (100 gm) in dichloromethane (500 ml) at 25-30° C. 4-di(methyl amino)pyridine (5.32 gm) was added and cooled to 0° C. To the reaction mixture Triethylamine (26.4 gm) was added at 0° C. Acetic anhydride (26.7 gm) was added slowly at temp. 0-5° C. over 30-60 min and maintained the reaction at temp. 0-5° C. over 30 min. Reaction completion was monitored by TLC. After reaction completion the reaction mass was quenched into 7% NaHCO3(500 ml) and stirred for 15 min. Temperature was raised to 25-30° C. and maintained for 30 min. Reaction mass was settled for 15 min and separated the organic layer. Aq.layer was extracted with dichloromethane (250 ml). The combined organic layer was washed with 25% NH4Cl solution (500 ml). Organic layer was distilled below 40° C. to get the desired product as residue.

reactant | 2-[2-[3(S)-[3-[2-(7-Chloro-2-quinolinyl)ethenyl]phenyl]-3-hydroxy propyl]phenyl]-2-propanol | 100 gm | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=CC1)[C@H](CCC1=C(C=CC=C1)C(C)(C)O)O | C29H28ClNO2
reactant | Triethylamine | 26.4 gm | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 26.7 gm | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (S)-1-(3-((E)-2-(7-chloroquinolin-2-yl)vinyl)phenyl)-3-(2-(1-hydroxy-1-methylethyl)phenyl]propyl acetate | C(C)(=O)O[C@@H](CCC1=C(C=CC=C1)C(C)(C)O)C1=CC(=CC=C1)\C=C\C1=NC2=CC(=CC=C2C=C1)Cl | C31H30ClNO3
